US04025647
A solution of 5-(4-nitrophenylthio)-3-t-butyl-6-methylsalicylic acid (2.0 g.) in acetic acid (200 ml.) is mixed with 30% w/v aqueous hydrogen peroxide solution (11 ml.). The mixture is stirred at room temperature for 6 hours and then added to water (700 ml.). The precipitated solid thus formed is separated by filtration and crystallised from acetic acid to give 5-(4-nitrophenylsulphinyl)-3-t-butyl-6-methylsalicylic acid, m.p. 201°-202° C.

reactant | 5-(4-nitrophenylthio)-3-t-butyl-6-methylsalicylic acid | 2.0 g | [N+](=O)([O-])C1=CC=C(C=C1)SC1=CC(=C(C(C(=O)O)=C1C)O)C(C)(C)C | C18H19NO5S
reactant | hydrogen peroxide | 11 ml | OO | H2O2
reactant | water | 700 ml | O | H2O
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 5-(4-nitrophenylsulphinyl)-3-t-butyl-6-methylsalicylic acid | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)C1=CC(=C(C(C(=O)O)=C1C)O)C(C)(C)C | C18H19NO6S
